US04755212
Preparation of 2-benzylthio-6-chloro-5,7-dimethyl-1,2,4-triazolo[1,5-a]pyrimidine
To a suspension of 153 g (0.74 mol) 3-amino-5-benzylthio-1,2,4-triazole in 250 ml of glacial acetic acid was added to 100 g (0.74 mol) of 3-chloro-2,4-pentanedione in a dropwise manner. The reaction mixture was heated at reflux for 18 hours and cooled to room temperature. The reaction mixture was poured over ice and the oil which separated solidified upon stirring. The solid was collected by filtration and recrystallized from methanol to yield 116 g (79%) of the desired product as an off white solid, m.p. 164°-166° C. IR and 1H NMR spectra were in agreement with the assigned structure.

reactant | 3-amino-5-benzylthio-1,2,4-triazole | 0.74 mol, 153 g | NC1=NNC(=N1)SCC1=CC=CC=C1 | C9H10N4S
reactant | 3-chloro-2,4-pentanedione | 0.74 mol, 100 g | ClC(C(C)=O)C(C)=O | C5H7ClO2
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 2-benzylthio-6-chloro-5,7-dimethyl-1,2,4-triazolo[1,5-a]pyrimidine | 116 g, 79% | C(C1=CC=CC=C1)SC1=NN2C(N=C(C(=C2C)Cl)C)=N1 | C14H13ClN4S
